US05916900
A mixture of 2-methyl-3-nitroaniline (10 g), glycerin (20.57 g) and arsenic pentoxide hydrate (As2O5.xH2O, Baker, 88% As2O5, 8.5 g) in concentrated sulfuric acid (9.75 mL) is heated slowly to 150° C. in an open round-bottom flask, then stirred for 6 hours at 150° C. The resulting mixture is cooled to room temperature and diluted with water (200 mL), then basified with ammonium hydroxide (28-30%, 100 mL). After about 10 minutes, the solution is acidified to pH=5 with glacial acetic acid and extracted with methylene chloride (3×200 mL). The combined extracts are washed with water (200 mL) and saturated sodium bicarbonate (200 mL), then dried over magnesium sulfate and rotary evaporated. The crude quinoline is filtered through a short pad of silica gel, using methylene chloride as solvent. The filtrate is rotary evaporated and the residue recrystallized from hexanes/methylene chloride to afford 8-methyl-7-nitroquinoline as a tan solid.

reactant | 2-methyl-3-nitroaniline | 10 g | CC1=C(N)C=CC=C1[N+](=O)[O-] | C7H8N2O2
reactant | glycerin | 20.57 g | OCC(O)CO | C3H8O3
reactant | arsenic pentoxide hydrate | 8.5 g | O.O=[As](=O)O[As](=O)=O
reactant | ammonium hydroxide | 100 mL | [OH-].[NH4+]
solvent | sulfuric acid | 9.75 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 200 mL | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8-methyl-7-nitroquinoline | CC=1C(=CC=C2C=CC=NC12)[N+](=O)[O-] | C10H8N2O2
